US04172198
2-(4-oxo-6-methyl-1,4-dihydropyridin-3-yloxy)acetic acid dihydrate (2.2 g) was dissolved in a mixture of methanol (120 ml) and water (170 ml) under heating on a water bath. The solution was stirred at 65° to 70° C. and trichloroisocyanuric acid (1.1 g) was added thereto. The resultant mixture was stirred for 65° to 70° C. for 1.5 hours. The reaction mixture was left to cool to room temperature with removal of the water bath and filtered. The obtained precipitates were washed with water and dried. The resultant crystals (2.0 g) were dried at 100° C. for 6 hours in vacuo over phosphorus pentoxide to give crystals of 2-(4-oxo-5-chloro-6-methyl-1,4-dihydropyridin-3-yloxy)acetic acid dihydrate, mp 240° to 242° C.

reactant | 2-(4-oxo-6-methyl-1,4-dihydropyridin-3-yloxy)acetic acid dihydrate | 2.2 g | O.O.O=C1C(=CNC(=C1)C)OCC(=O)O
reactant | trichloroisocyanuric acid | 1.1 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | methanol | 120 ml | CO | CH4O
solvent | water | 170 ml | O | H2O
product | 2-(4-oxo-5-chloro-6-methyl-1,4-dihydropyridin-3-yloxy)acetic acid dihydrate | O.O.O=C1C(=CNC(=C1Cl)C)OCC(=O)O | InChI=1S/C8H8ClNO4.2H2O/c1-4-7(9)8(13)5(2-10-4)14-3-6(11)12;;/h2H,3H2,1H3,(H,10,13)(H,11,12);2*1H2
